US08071585B2
Intermediate BA3: 4-chloro-1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine
Phosphorus oxychloride (7.96 mL, 85.38 mmol) was added to 1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol (Intermediate BA4) (1.2 g, 4.27 mmol). The resulting solution was stiffed at 100° C. for 20 hours. LCMS showed reaction was complete. The reaction mixture was evaporated. Ice/water and then EtOAc were added. The organic layer to was separated and the aqueous layer re-extracted with EtOAc. The combined organics were washed with water, dried (MgSO4) and concentrated to give the product (1.110 g, 87%) which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.46-7.58 (3H, m), 8.45 (1H, s), 8.82 (1H, s); m/z (ES+) (M+H)+=299; HPLC tR=2.77 min.

reactant | Phosphorus oxychloride | 85.38 mmol, 7.96 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 4.27 mmol, 1.2 g | ClC1=C(C(=CC=C1)Cl)N1N=CC=2C1=NC=NC2O | C11H6Cl2N4O
product | 4-chloro-1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine | 1.110 g, 87% | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=CC=C2Cl)Cl | C11H5Cl3N4
